US04642308
The procedure is similar to that described in Example 1, but starting with 3-dimethylaminobenzoic acid (6.6 g), N,N'-carbonyldiimidazole (6.5 g) and 2-amino-7-chloro-1,8-naphthyridine (5.4 g). The product produced by precipitation in water (9 g; m.p. 212° C.) is dissolved in boiling acetonitrile (400 cc). After 3 hours' cooling at 4° C., the crystallised solid is separated by filtration, washed with acetonitrile (3×20 cc) and dried at 40° C. under reduced pressure (0.067 kPa). N-(7-Chloro-1,8-naphthyridin-2-yl)-3-dimethylaminobenzamide (6.2 g) is produced, m.p. 215° C.

reactant | 3-dimethylaminobenzoic acid | 6.6 g | CN(C=1C=C(C(=O)O)C=CC1)C | C9H11NO2
reactant | 2-amino-7-chloro-1,8-naphthyridine | 5.4 g | NC1=NC2=NC(=CC=C2C=C1)Cl | C8H6ClN3
reactant | acetonitrile | 400 cc | C(C)#N | C2H3N
solvent | water | 9 g | O | H2O
product | N-(7-Chloro-1,8-naphthyridin-2-yl)-3-dimethylaminobenzamide | 6.2 g | ClC1=CC=C2C=CC(=NC2=N1)NC(C1=CC(=CC=C1)N(C)C)=O | C17H15ClN4O
